US05834463
(4aR*,11aS*)-10-Benzyl-5-(phthalimidoacetyl)-1,2,3,4,4a,5,10,11a-octahydro-11H-dibenzo[b,e][1,4]-diazepin-11-one
To a solution of (4aR*,11aS*)-10-benzyl-1,2,3,4,4a,5,10,11a-octahydro-11H-dibenzo[b,e][1,4]-diazepin-11-one (200 mg, 0.65 mmol) in 1,2-dichloroethane (2 mL) was added phthalimidoacetyl chloride (175 mg, 0.78 mmol), and the mixture was stirred for 15 minutes at room temperature. To this solution was added pyridine (0.08 mL), and the mixture was stirred for 15 minutes at room temperature. To the reaction mixture was added a saturated aqueous solution of sodium hydrogencarbonate. The aqueous layer was separated, and the organic layer was washed with water and a saturated aqueous solution of sodium chloride, which was dried over magnesium sulfate, followed by filtration and concentration under reduced pressure. The concentrate was crystallized from ethanol to give 138 mg (yield 43%) of the titled compound, m.p. 241°-242.5° C.

reactant | (4aR*,11aS*)-10-benzyl-1,2,3,4,4a,5,10,11a-octahydro-11H-dibenzo[b,e][1,4]-diazepin-11-one | 0.65 mmol, 200 mg | C(C1=CC=CC=C1)N1C2=C(N[C@H]3[C@@H](C1=O)CCCC3)C=CC=C2 | C20H22N2O
reactant | phthalimidoacetyl chloride | 0.78 mmol, 175 mg | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
reactant | pyridine | 0.08 mL | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | (4aR*,11aS*)-10-Benzyl-5-(phthalimidoacetyl)-1,2,3,4,4a,5,10,11a-octahydro-11H-dibenzo[b,e][1,4]-diazepin-11-one | 138 mg, yield 43% | C(C1=CC=CC=C1)N1C2=C(N([C@H]3[C@@H](C1=O)CCCC3)C(CN3C(C=1C(C3=O)=CC=CC1)=O)=O)C=CC=C2 | C30H27N3O4
